US07842685B2
A slurry of (E)-methyl 3-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)phenyl)acrylate (0.116 g, 0.269 mmol) and Pd/C 10%, 50% water (0.115 g, 0.108 mmol) in 2 mL THF was treated with a hydrogen balloon with rapid stirring for 3 h. The reaction mixture was flushed with nitrogen, diluted with DCM, filtered through celite, rinsing with DCM. The filtrate was concentrated in vacuo to give methyl 3-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)phenyl)propanoate as a white solid. MS (ESI) m/z; calculated: 432.1; Observed: 433.1 (M++1).

reactant | (E)-methyl 3-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)phenyl)acrylate | 0.269 mmol, 0.116 g | FC=1C=C(C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)/C=C/C(=O)OC | C25H19FN2O2S
reactant | hydrogen | [H][H] | H2
solvent | THF | 2 mL | C1CCOC1 | C4H8O
catalyst | Pd/C | 0.108 mmol, 0.115 g | [Pd] | Pd
product | methyl 3-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)phenyl)propanoate | FC=1C=C(C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)CCC(=O)OC | C25H21FN2O2S
